US04990614
Condensation of 2,4-dibenzyloxyphenylacetic acid (923 mg) and 1-(N-tert-butoxycarbonyl-L-asparaginyl)-4-methylpiperazine (1.0 g) was carried out in the same manner as in Example 12 (i) to obtain colorless crystalline powder 1-(2,4-dibenzyloxyphenyl-L-asparaginyl)-4-methylpiperazine (1.18 g). Melting point: 83°-85° C.

reactant | 2,4-dibenzyloxyphenylacetic acid | 923 mg | C(C1=CC=CC=C1)OC1=C(C=CC(=C1)OCC1=CC=CC=C1)CC(=O)O | C22H20O4
reactant | 1-(N-tert-butoxycarbonyl-L-asparaginyl)-4-methylpiperazine | 1.0 g | C(C)(C)(C)OC(=O)N[C@@H](CC(N)=O)C(=O)N1CCN(CC1)C | C14H26N4O4
product | 1-(2,4-dibenzyloxyphenyl-L-asparaginyl)-4-methylpiperazine | 1.18 g | C(C1=CC=CC=C1)OC1=C(C=CC(=C1)OCC1=CC=CC=C1)N[C@@H](CC(N)=O)C(=O)N1CCN(CC1)C | C29H34N4O4
